US04478837
3-Hydrazino-6-(p-phenylbenzyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
9.0 g of 3-chloro-6-(p-phenylbenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine and 55 cc of hydrazine hydrate and stirred at a bath temperature of 100° for 51/2 hours. After cooling the mixture with ice the title compound precipitates and is recrystallized from 200 cc of dimethyl formamide. M.P. 241°-244° (decomp.).

reactant | 3-chloro-6-(p-phenylbenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 9.0 g | ClC1=CC2=C(N=N1)CCN(C2)C(C2=CC=C(C=C2)C2=CC=CC=C2)=O | C20H16ClN3O
reactant | hydrazine hydrate | 55 cc | O.NN
product | 3-Hydrazino-6-(p-phenylbenzyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | N(N)C1=CC2=C(N=N1)CCN(C2)CC2=CC=C(C=C2)C2=CC=CC=C2 | C20H21N5
